Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Isosorbide
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
Cardiac catheterization ___

 
History of Present Illness:
___ PMHx of CAD s/p DES to px LAD ___ on ASA/Plavix, HTN, who 
is
a transfer from ___ for further management
of NSTEMI. 

Around 2:45 ___ ___, the patient developed acute onset
substernal chest pain radiation to his neck/left arm. Was
evaluated at ___, initial EKG reassuring, repeat 
EKG
with T wave inversions in the inferior leads. Troponin elevation
was also noted. Patient was given 2 doses of metoprolol, on the
second IV push, the patient developed cognitive slowing and word
finding difficulty. CT Noncon was performed, which was negative
for intracranial hemorrhage. The patient was started on heparin
GTT transferred here for further evaluation. Patient arrived to
ED endorsing ___ chest pain, now up to ___.

In the ED, Initial VS: 97.7 | 66 | 147/69 | 18, 97% RA 

Exam:
General: well appearing middle-aged male in NAD
HEENT: NC, AT. Nares patent. IMMM
Chest: CTAB
CV: RRR, nrml s1/s2, no m/g/r.
Abdomen: soft, non-tender, no HSM
Ext: no edema
Neuro: AOx3, cn2-12 intact, strength ___ in all extremities.

EKG: TWI in III. 

Labs notable for: 
trop 0.25, MB: 29
CPK: 238
INR: 1.1.
CBC, BMP, lytes unremarkable. 

Studies notable for:
None.

Consults:
Cardiology consulted in ED who recommended Aspirin 325,
atorvastain 80, uptitrate nitro drip as BPs tolerate, can also
initiate metoprolol 6.25 mg PO q6hr, trend trop/CKMB to peak, 
and
admit to ___. 

Patient was given: 
___ 22:26 SL Nitroglycerin SL .4 mg 
___ 22:49 IV Heparin  800 units/hr 
___ 22:49 IV DRIP Nitroglycerin 
___ 22:56 PO Acetaminophen 1000 mg 
___ 23:18 IV Morphine Sulfate 4 mg
___ 23:29 IVF  NS 1000 mL  

Vitals on transfer:  98.0 | 67 | 166/76 | 18, 98% Ra 
 

On the floor, patient endorses HPI as above. Still having mild
chest pain but improved from presentation. Denies any current
SOB, palpitations. No recent orthopnea, PND, edema. 

 
Past Medical History:
CAD s/p DES to px LAD ___
HTN
Borderline HLD

 
Social History:
___
Family History:
Unknown
 
Physical Exam:
ADMISSON EXAM
==============
VS: 98.0 | 155/64 | 64 | 18, 98% Ra   
GENERAL: WDWN. in NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCNAT. Sclera anicteric. PERRL. EOMI. 
NECK: JVP of 8 cm.  
CARDIAC: RRR. No murmurs, rubs, or gallops. no thrills or lifts. 


LUNGS: CTAB. Respiration is unlabored with no accessory muscle
use. No crackles, wheezes or rhonchi.  
ABDOMEN: Mildly distended but soft, non-tender. 
EXTREMITIES: WWP. No clubbing, cyanosis, or peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  

DISCHARGE EXAM
===============
T98.1, BP 113/66, HR68, RR20, PO2 98 RA  
GENERAL: WDWN. in NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCNAT. Sclera anicteric. PERRL. EOMI. 
NECK: JVP of 8 cm.  
CARDIAC: RRR. No murmurs, rubs, or gallops. no thrills or lifts. 

LUNGS: CTAB. Respiration is unlabored with no accessory muscle
use. No crackles, wheezes or rhonchi.  
ABDOMEN: Mildly distended but soft, non-tender. 
EXTREMITIES: WWP. No clubbing, cyanosis, or peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  

 
Pertinent Results:
ADMISSION LABS
===============
___ 09:45PM BLOOD WBC-7.0 RBC-4.74 Hgb-13.6* Hct-41.6 
MCV-88 MCH-28.7 MCHC-32.7 RDW-12.2 RDWSD-39.8 Plt ___
___ 09:45PM BLOOD Neuts-61.6 ___ Monos-6.8 Eos-2.9 
Baso-0.6 Im ___ AbsNeut-4.29 AbsLymp-1.93 AbsMono-0.47 
AbsEos-0.20 AbsBaso-0.04
___ 09:45PM BLOOD ___ PTT-150 ___
___ 09:45PM BLOOD Glucose-103* UreaN-13 Creat-0.9 Na-145 
K-4.2 Cl-107 HCO3-24 AnGap-14
___ 09:45PM BLOOD CK(CPK)-238
___ 09:45PM BLOOD Calcium-9.4 Phos-3.6 Mg-2.2

OTHER PERTINENT LABS/MICRO
===========================
___ 09:45PM BLOOD CK-MB-29* MB Indx-12.2*
___ 09:45PM BLOOD cTropnT-0.25*
___ 07:15AM BLOOD CK-MB-29* cTropnT-0.22*
___ 08:03AM BLOOD %HbA1c-6.0 eAG-126
___ 07:15AM BLOOD Triglyc-109 HDL-40* CHOL/HD-2.8 
LDLcalc-48

IMAGING
========
LM
The left main coronary artery. There is a 20% stenosis.

LAD
The left anterior descending coronary artery. There is a 30% 
stenosis in the proximal LAD. The stent was widely patent in the 
mid LAD and there were minor irregularities in the distal LAD. 
There was an 80% stenosis of a medium sized diagonal branch that 
was essentially unchanged from ___. There was a 90% stenosis of 
the apical LAD.

Circ
The circumflex coronary artery. There is a 40% stenosis in the 
ostium of the LCx. There was a large OMB with multiple 
bifurcated branches. One small inferior branch was diffusely 
disease with a 70% stenosis. The distal continuation of the 
stent also had a 60% stenosis but the termination of the LCx 
into the PLB was a small vessel.

RCA
The right coronary artery. There is a 90% stenosis with thrombus 
in the proximal RCA but very diffuse disease in the mid and 
distal RCA up to 80%, The RCA terminated in a medium sized PDA 
with TIMI
2 flow.

DISCHARGE LABS
===============
___ 07:20AM BLOOD WBC-7.7 RBC-4.76 Hgb-13.8 Hct-41.9 MCV-88 
MCH-29.0 MCHC-32.9 RDW-12.5 RDWSD-39.8 Plt ___
___ 07:20AM BLOOD Glucose-96 UreaN-10 Creat-0.9 Na-142 
K-4.0 Cl-107 HCO3-25 AnGap-10
___ 07:20AM BLOOD Calcium-9.0 Phos-3.3 Mg-2.2
 
Brief Hospital Course:
TRANSITIONAL ISSUES
====================
Discharge wt: 147.05 lb
Discharge Cr: 0.9
New medications: none
Changed medications: atorvastatin 80mg qhs, metoprolol succinate 
XL 50mg daily 
Stopped medications: none

[] consider TTE in one month to reassess EF if symptomatic 
[] if patient is using sublingual nitro and becoming very dizzy, 
would be concerned for inferior infarct given RCA lesion and 
preload dependence; will likely get TTE as above but would stop 
SL nitro if this is the case
[] if having myalgias, consider decreasing atorvastatin dose 
back down to 40mg as last lipid panel was at goal 
[] will likely need to continue DAPT lifelong given complicated 
anatomy with overlapping stents; no history of bleeding

# CODE STATUS: FCC
# CONTACT: ___, Wife, ___

___ PMHx of CAD s/p DES to px LAD ___ on ASA/Plavix, HTN, who 
is a transfer from ___ for further 
management of NSTEMI now s/p DES to RCA x2. 

# NSTEMI
# CAD s/p DES to px LAD ___:
Patient developed acute onset substernal chest pain radiating to 
neck/left arm. Initial EKG reassuring, repeat EKG with T wave 
inversions in the inferior leads. Received ASA 325. Maintained 
on heparin gtt, nitro gtt started at ___ ED for persistent 
chest pain. Continued heparin gtt, aspirin 81mg, Plavix 75mg 
daily. Nitro gtt uptitrated but given persistent chest pain and 
elevated biomarkers (trop T 0.25, MB 29, MB-I 12) patient was 
taken to cath. Thrombus noted in RCA and s/p 2 overlapping DES. 
Increased atorvastatin from 40 to 80mg qhs, and increased 
metoprolol from 25 to 50mg daily. Of note has disease elsewhere 
(30% pLAD. mid-LAD stent widely patent; minor irregularities in 
distal LAD; 80% stenosis of diag branch unchanged; 90% stenosis 
of apical LAD; 40% stenosis in ostium of LCx; inferior OM branch 
70%
stenosis. Will need outpatient TTE. 

# HTN:
Does not appear to be on any clear antihypertensives as home. 
BPs have been stable and at goal off the nitro gtt. Increased 
dose of metoprolol as above. 

# HLD: 
Lipids with TC 110, ___ 109, HDL 40, and LDL 48 so at goal. 
However increased from 40 to 80mg atorvastatin on discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Clopidogrel 75 mg PO DAILY 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
5. Atorvastatin 40 mg PO QPM 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 
2.  Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  Clopidogrel 75 mg PO DAILY  
5.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Non-ST elevation myocardial infarction

SECONDARY DIAGNOSES
====================
Hypertension
Hyperlipidemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

WHY YOU WERE HERE
- You were having chest pain 

WHAT WE DID FOR YOU 
- You were found to have a heart attack
- We controlled your pain with medications
- You were taken for cardiac catheterization for which you had 
stents placed in another artery from before

WHAT YOU SHOULD DO WHEN YOU LEAVE
- You will continue on aspirin + Plavix, likely lifelong, to 
prevent blockages of the stents. Missing doses can cause heart 
attack!!
- If you have chest pain, please call your doctor immediately or 
call ___. You can take your sublingual nitro but if you are 
getting dizzy, please do not take any more and wait for 
evaluation by a doctor in the emergency room. Please call your 
doctor with any other concerning symptoms such as dizziness, 
palpitations, shortness of breath, etc. 
- Please follow up with your cardiologist and your primary care 
doctor 

It was a pleasure caring for you!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___